US06734301B2
(Chart D, Step 3): A dry round bottom flask is charged with 2-(3-benzyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanol (420 mg, 1.31 mmol), phenol (185.2 mg, 1.97 mmol), triphenylphosphine (413 mg, 1.57 mmol), and THF (12 mL, freshly distilled). After cooling the reaction to 0° C., diethylazodicarboxylate (DEAD) (0.248 mL, 1.57 mmol) is added dropwise via syringe. The ice bath is allowed to expire, and the reaction is stirred at ambient temperature for 18 hours. The reaction is quenched with 30% H2O2 (0.20 mL), diluted with ethyl ether and washed twice with 10% aq. NaHSO3. The organics are washed twice with aq. 1N NaOH, once with brine, dried with Na2SO4, filtered and concentrated to 1.08 g of a crude yellow solid. Purification of the crude using silica gel and 10% ethyl acetate in heptane as the eluent gives 392 mg (76%) of 3-benzyl-11-(2-phenoxyethyl)-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole as a pale yellow oil. HRMS (FAB) calculated for C27H28N2O+H1 397.2280, found 397.2271.

reactant | 2-(3-benzyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanol | 1.31 mmol, 420 mg | C(C1=CC=CC=C1)N1CCN2C(=C(C=3C=CC=CC23)CCO)CC1 | C21H24N2O
reactant | phenol | 1.97 mmol, 185.2 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 1.57 mmol, 413 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.57 mmol, 0.248 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 3-benzyl-11-(2-phenoxyethyl)-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole | 392 mg, 76% | C(C1=CC=CC=C1)N1CCN2C(=C(C=3C=CC=CC23)CCOC2=CC=CC=C2)CC1 | C27H28N2O
